US04451464
A solution of 3.6 g. of 1-ethyl-2-methylthioimidazoline, 5.0 g. of 2-amino-5-trifluoromethylbenzoic acid and 50 ml. of dimethylacetamide is refluxed for 24 hours and then the reaction mixture concentrated in vacuo. The residue is dissolved in methylene chloride, washed first with 2 N sodium hydroxide solution and then with water, dried over magnesium sulfate, filtered and chromatographed on silica gel while eluding with methylene chloride to obtain 1-ethyl-7-trifluoromethyl-2,3-dihydro-imidazo[2.1-b]quinazolin-5(1H)-one.

reactant | 1-ethyl-2-methylthioimidazoline | C(C)N1C(=NCC1)SC | C6H12N2S
reactant | 2-amino-5-trifluoromethylbenzoic acid | NC1=C(C(=O)O)C=C(C=C1)C(F)(F)F | C8H6F3NO2
solvent | dimethylacetamide | CC(=O)N(C)C | C4H9NO
product | 1-ethyl-7-trifluoromethyl-2,3-dihydro-imidazo[2.1-b]quinazolin-5(1H)-one | C(C)N1CCN2C1=NC1=CC=C(C=C1C2=O)C(F)(F)F | C13H12F3N3O
